US05763450
2 g of 4-bromoacetophenone, 2.8 ml of ethynyltrimethylsilane, 140 mg of bis(triphenylphosphine)palladium dichloride, 3 ml of triethylamine and 14 mg of copper(I)iodide in 20 ml of N,N-dimethylformamide were stirred at 50° under argon for 2 hrs. After distillation of the solvent the residue was extracted once with 50 ml of ethyl acetate, once with 50 ml of 1N HCl and twice with 50 ml of water. The crude product was purified by silica gel chromatography in hexane/ethyl acetate 10:1 and distilled at 120°/0.1 Torr in a bulb-tube oven. 1.74 g (80%) were obtained as a colourless oil. This was dissolved in 17 ml of methanol, treated with 110 mg of potassium carbonate and stirred at room temperature for 1.5 hrs. After evaporation the product was extracted with 20 ml of ethyl acetate and 20 ml of water and then crystallized from 10 ml of hexane. 0.8 g (71%) of 1-(4-ethynyl-phenyl)-ethanone was obtained as white crystals. M.p. 71°.

reactant | 4-bromoacetophenone | 2 g | CC(=O)C1=CC=C(C=C1)Br | C8H7BrO
reactant | ethynyltrimethylsilane | 2.8 ml | C(#C)[Si](C)(C)C | C5H10Si
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 110 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | methanol | 17 ml | CO | CH4O
catalyst | bis(triphenylphosphine)palladium dichloride | 140 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I)iodide | 14 mg | [Cu]I
product | 1-(4-ethynyl-phenyl)-ethanone | 0.8 g, 71% | C(#C)C1=CC=C(C=C1)C(C)=O | C10H8O
